US06037342
5-Chloro-2-(1-piperidyl)benzoxazole
2-Amino-4-chlorophenol (400 mg) and 4-piperidinecarboxylic acid (360 mg) were mixed with polyphosphate (2 g) in xylene (30 ml) and stirred with heating at 180° C. for 2 hours. After cooling to room temperature, the reaction was stopped by adding water. The filtrate was adjusted to pH 12 with 50% potassium hydroxide aqueous solution and extracted with methylene chloride. The organic layer was washed with saturated brine and dried with magnesium sulfate, and then the solvent was evaporated under a reduced pressure to obtain the title compound 5-chloro-2-(1-piperidyl)benzoxazole (218 mg).

reactant | 2-Amino-4-chlorophenol | 400 mg | NC1=C(C=CC(=C1)Cl)O | C6H6ClNO
reactant | 4-piperidinecarboxylic acid | 360 mg | N1CCC(CC1)C(=O)O | C6H11NO2
reactant | water | O | H2O
reactant | potassium hydroxide | [OH-].[K+]
reactant | xylene | 30 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 5-chloro-2-(1-piperidyl)benzoxazole | 218 mg | ClC=1C=CC2=C(N=C(O2)N2CCCCC2)C1 | C12H13ClN2O
